US05817766
Synthesis of 5-Hydroxy-2,2,4-trimethyl-7-pentyl-2H-1-benzopyran-3-propanol
Alternate Synthesis A solution of 15 mL of a 1M solution of MeMgBr (Aldrich) diluted with 60 mL of anhy. Et2O and 15 mL of anhy. THF was brought to a boil under reflux and under argon. A solution of 1.0 g of 5-Hydroxy-3-(3-hydroxypropyl)-4-methyl-7-pentyl-2H-1-benzopyran-2-one in 60 mL of dry THF was then added dropwise over 1 hr to the reaction and boiling continued for a total of 4 hr. The reaction was allowed to cool to RT overnight, brought back to a boil and boiling resumed for a further 2 hr. Heating was then stopped and the reaction cooled to RT, then in an ice-bath, and quenched by careful addition of 120 mL of ice-cold 1N HCl with vigorous stirring. The reaction turned yellow, then purplish in color with considerable precipitation of solids, before turning yellow again with clearing of the solution. 40 mL of ice-cold 6N HCl was then added and the mixture stirred in the ice-bath for 15 min. Cooling was then removed, the mixture allowed to attain RT with continuous stirring and the resulting deep yellow solution extracted with EtOAc (1×200 mL, 1×100 mL). The combined organic layers were washed with half-sat. aq. NaCl (3×100 mL), sat. aq. NaCl (1×100 mL), dried (Na2SO4) and evaporated under reduced pressure to give a discolored syrup. The residue was swirled with about 20 mL EtOAc to give a clear pale colored solution containing off-white solids. The mixture was filtered to give 274 mg of recovered starting material, and a filtrate which was stripped of solvent under reduced pressure to give 760 mg of a material containing product. The material was again triturated with a little EtOAc and filtered again to give a further 159 mg of recovered starting material as a solid, and a filtrate which was stripped of solvent to give 600 mg of a residue which was subjected to PLC, eluting with 1:1 CHCl3 -EtOAc. The product band approximately halfway up the plate was isolated, the silica washed with 10% MeOH-EtOAc and the washings evaporated under reduced pressure to give 243 mg of the desired product 5-Hydroxy-2,2,4-trimethyl-7-pentyl-2H-1-benzopyran-3 -propanol.

reactant | MeMgBr | C[Mg+].[Br-]
reactant | Et2O | CCOCC | C4H10O
reactant | 5-Hydroxy-3-(3-hydroxypropyl)-4-methyl-7-pentyl-2H-1-benzopyran-2-one | 1.0 g | OC1=CC(=CC2=C1C(=C(C(O2)=O)CCCO)C)CCCCC | C18H24O4
reactant | EtOAc | about 20 mL | CCOC(=O)C | C4H8O2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 5-Hydroxy-2,2,4-trimethyl-7-pentyl-2H-1-benzopyran-3-propanol | 760 mg | OC1=CC(=CC2=C1C(=C(C(O2)(C)C)CCCO)C)CCCCC | C20H30O3
